US07259183B2
Preparation of (4-tert-butyl-benzyl)-(2-pyridin-4-yl-ethyl)-amine
1.22 g (10 mmol) of 2-(4-pyridyl)-ethyl amine and 1.62 g (10 mmol) of 4-tert-butyl benzaldehyde were dissolved in 20 ml methanol and stirred at rt over night. 555 mg (15 mmol) of sodium borohydride were added in portions under cooling. After complete addition the reaction mixture was stirred for 1 h at rt. Water was added and methanol was evaporated. The reaction mixture was extracted twice with diethyl ether. The combined organic layers were washed with water, dried over sodium sulfate, filtered and the solvent was evaporated to yield 2.45 g (91%) product as a light yellow oil. 1H NMR (DMSO-d6, 300 MHz): δ 8.49 (d, 2H), 7.34 (d, 2H) 7.21 (d, 2H), 7.13 (d, 2H), 3.77 (s, 2H), 2.93 (t, 2H), 2.81 (t, 2H), 1.31 (s, 9H).

reactant | 2-(4-pyridyl)-ethyl amine | 10 mmol, 1.22 g | N1=CC=C(C=C1)CCN | C7H10N2
reactant | 4-tert-butyl benzaldehyde | 10 mmol, 1.62 g | C(C)(C)(C)C1=CC=C(C=O)C=C1 | C11H14O
reactant | sodium borohydride | 15 mmol, 555 mg | [BH4-].[Na+]
reactant | Water | O | H2O
solvent | methanol | 20 ml | CO | CH4O
product | (4-tert-butyl-benzyl)-(2-pyridin-4-yl-ethyl)-amine | 2.45 g, 91% | C(C)(C)(C)C1=CC=C(CNCCC2=CC=NC=C2)C=C1 | C18H24N2
